Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Toradol / Decadron
 
Attending: ___.
 
Chief Complaint:
Headache, leg pain.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH significant for h/o L4-L5 laminectomy fusion and 
repair of pseudomeningocele, complicated by CSF leak, s/p 
intrathecal catheter placement for poorly controlled pain, who 
presented to the ED on ___ with bilateral leg pain and 
headache.
The pain started 10 days ago, initially in her left lower 
extremity, then her right. The pain is described as dull, 
sciatic, and neuropathic. Patient describes it is in the L3, L4, 
and L5 dermatomes. The pain is worse with standing and walking, 
and improved with laying down. She denies fvers, neck pain, 
numbness, paresthesia, weakness, saddle anesthesia, and 
bowel/bladder inconinence. She has been taking ___ tabs of 15mg 
morphine per day as opposed to ___ tabs at baseline. The 
patient's headache began ___ days ago. It is located in the 
front, and described as throbbing. She has associated 
photophobia with nausea. This is different from her usual 
migraines in that it is not unilateral. Prior to this episode of 
pain, the patient reports doing well. She was making progress 
with ___. She is seen in the pain clinic with the goal of comming 
of oral medications and using the IT catheter for pain 
management. The pump was increased 2 months ago from 360mcg/day 
to 396mcg/day. 

Upon arrival to the ED, vitals were: T97.8 BP130/88 ___ RR18 
100% RA. Labs were unremarkable. CT and MRI of L-spine were 
negative for CSF leak. Etiology of symptoms was also not 
identified. The patient required significant opiates for pain 
control, a total of 11mg of dilaudid today. Therefore, 
neurosurgery recommended admission to medicine for pain 
management. Vitals on transfer 98.2 BP98/44 P74 RR16 99% RA.
 
The patient was most recently admitted in ___ for 
acute worsening of buttock pain radiating to her legs 
bilaterally, requiring increased PO narcotics. MRI of L-spine 
revealed a CSF leak. The patient's pain was treated with a PCA 
and the patient was discharged home with a dilaudid taper. 

On the floor, patient continued to complain of pain in her lower 
extremities. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, recent weight loss or gain. Denies 
sinus tenderness, rhinorrhea or congestion. Denies cough, 
shortness of breath. Denies chest pain or tightness, 
palpitations. Denies  vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias.  
 

 
Past Medical History:
PAST MEDICAL HISTORY:  
- Migraine headaches
- Endometriosis 
- Chronic back pain secondary to a fall. 

PAST SURGICAL HISTORY:
- L4-L5 fusion with a laminectomy of L5 and S1 levels
- Revision L4-5 fusion
- Multiple escalating oral opioid doses which led to the
placement of an intrathecal pump placed by Dr. ___ at ___ in ___.  
- Laparotomies x2 for endometriosis

 
Social History:
___
Family History:
The patient's mother has a history of skin cancer.

 
Physical Exam:
ON ADMISSION:
==================================
Vitals: T98.4 BP105/64 P91 RR20 100RA 
General: Laying in bed, calm, well-appearing. No acute distress. 

HEENT: Pupils 3-4mm and reactive to light. Oropharynx clear. 
Neck: Supple, no lymphadenopathy.
CV: RRR, normal S1, S2. No murmurs. 
Lungs: Clear to auscultation bilaterally
Back: Linear scar over lumbar spine. Palpation of spinous 
processess nontender to palpation.
Abdomen: +BS, soft, nondistended, nontender to palpation. IT 
pump located in LLQ. 
Ext: Warm and well perfused. Pulses 2+. No peripheral edema.
Neuro: CN II-XII intact. Sensation intact. ___ upper and lower 
extremity strength. 
Skin: No rash or ecchymosis. 

ON DISCHARGE:
=================================
Vitals: T98.4 BP94/60 P75 RR18 100RA
General: Laying in bed, calm, well-appearing. No acute distress. 

HEENT: Pupils 3-4mm and reactive to light. Oropharynx clear. 
Neck: Supple, no lymphadenopathy.
CV: RRR, normal S1, S2. No murmurs. 
Lungs: Clear to auscultation bilaterally
Back: Linear scar over lumbar spine. Palpation of spinous 
processess nontender to palpation.
Abdomen: +BS, soft, nondistended, nontender to palpation. IT 
pump located in LLQ. 
Ext: Warm and well perfused. Pulses 2+. No peripheral edema.
Neuro: CN II-XII intact. Sensation intact. ___ upper and lower 
extremity strength. 
Skin: No rash or ecchymosis. 
 

 
Pertinent Results:
ON ADMISSION:
================================
___ 07:30PM BLOOD WBC-6.1 RBC-3.92* Hgb-12.2 Hct-37.0 
MCV-95 MCH-31.2 MCHC-33.0 RDW-12.3 Plt ___
___ 07:30PM BLOOD Neuts-43.6* Lymphs-48.2* Monos-3.9 
Eos-3.7 Baso-0.6
___ 07:30PM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-139 
K-3.9 Cl-108 HCO3-21* AnGap-14

ON DISCHARGE:
================================
___ 06:35AM BLOOD WBC-5.7 RBC-3.92* Hgb-12.2 Hct-37.3 
MCV-95 MCH-31.1 MCHC-32.7 RDW-12.2 Plt ___
___ 06:35AM BLOOD Glucose-93 UreaN-11 Creat-0.7 Na-138 
K-4.0 Cl-106 HCO3-25 AnGap-11
___ 06:35AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1

STUDIES:
=================================
CT L-SPINE (___)
Post-surgical changes related to prior left hemilaminectomy and
L4-5 lumbar fusion, as described above.  No osseous lesion 
suspicious for
infection is identified, and no focal fluid collection or 
abscess is clearly
seen.  Overlying soft tissues changes related to spinal catheter 
placement. 
No discrete epidural hematoma or abscess is present, however MRI 
is more
sensitive and if clinically indicated, could be obtained for 
further
evaluation.

MRI L-SPINE (___)
No significant interval change since the previous MRI of ___. No 
evidence of significant CSF leak identified. Small disk 
protrusion at L3-4 level. Postoperative changes as described 
above. 
 
Brief Hospital Course:
___ with PMH significant for h/o L4-L5 laminectomy and repair 
of pseudomeningocele complicated by CSF leak who presented with 
lower extremity pain and headaches.

# Lower extremity pain:
CT and MRI of L-spine did not reveal any CSF leak or other 
potential sources of pain such as disc herniation, infection, or 
hematoma. Furthermore, the patient was neurologically intact on 
exam. The patient was seen and evaluated by the neurosurgical 
service who believed she did not have any neurosurgical needs. 
Chronic pain was consulted who recommended a short course of 
dilaudid PO until the patient follows up with her outpatient 
pain specialist. 

# Headache:
Patient reported her headache felt very similar to previous 
headaches secondary to CSF leaks. However, CT and MRI were 
negative for leak. She was otherwise afebrile and neurologically 
intact. The patient's headache was slightly improved upon 
discharge. 

TRANSITIONAL ISSUES:
- Patient will follow up with neurosurgery and chronic pain.
- Consider up-titrating of intrathecal pump per pain service.
- Patient will be discharged with 7 day course of dilaudid 
___ PO Q3-4H PRN per chronic pain service recs. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 100 mg PO QAM 
2. Topiramate (Topamax) 200 mg PO QPM 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Cyclobenzaprine 10 mg PO TID 
5. levonorgestrel 20 mcg/24 hour ___ years) intrauterine ___ years 

6. fentaNYL (bulk) 100 % miscellaneous daily 
7. Morphine Sulfate ___ 15 mg PO Q4H:PRN pain 
8. Sumatriptan Succinate 100 mg PO PRN migraine 
9. Amitriptyline 20 mg PO HS 
10. Fluoxetine 30 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 20 mg PO HS 
2. Cyclobenzaprine 10 mg PO TID 
3. Fluoxetine 30 mg PO DAILY 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Topiramate (Topamax) 100 mg PO QAM 
6. Topiramate (Topamax) 200 mg PO QPM 
7. Docusate Sodium 200 mg PO BID 
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth Q3H Disp #*168 
Tablet Refills:*0
9. Senna 8.6 mg PO BID:PRN constipation 
10. fentaNYL (bulk) 100 % miscellaneous daily 
11. Levonorgestrel 20 ___ years) INTRAUTERINE ___ YEARS 
12. Sumatriptan Succinate 100 mg PO PRN migraine 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Post-laminectomy syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. As you recall, you were admitted for worsening 
lower extremity pain and headache. CT and MRI of your L-spine 
did not reveal any CSF leak or any other causes that could 
explain worsening of your symptoms. The chronic pain doctors saw 
___ and recommend a short course of dilaudid until you follow up 
with the pain specialists, who can then up-titrate your pump.

Please see below for medication changes and follow up 
appointments. We are glad you are feeling better and we wish you 
the best.
 
Followup Instructions:
___